US08236826B2
Production of 4-(tetrahydropyran-2-yloxy)benzylamine
To a solution of lithium aluminum hydride (2.66 g, 70 mmol) in THF (2.00 mL) was added dropwise under ice cooling a solution of 4-(tetrahydropyran-2-yloxy)benzonitrile in THF (70 mL). The resulting solution was then refluxed for 1 hour. The resulting reaction solution was again cooled with ice, and then to the solution was added dropwise, in order, water (2.66 mL), 1 N aqueous sodium hydroxide (2.66 mL) and water (7.98 mL). Insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure, after which the residue was purified by silica gel column chromatography (chloroform methanol 7:1), to thereby yield 11.41 g of the title compound.

reactant | lithium aluminum hydride | 70 mmol, 2.66 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(tetrahydropyran-2-yloxy)benzonitrile | O1C(CCCC1)OC1=CC=C(C#N)C=C1 | C12H13NO2
reactant | water | 2.66 mL | O | H2O
reactant | sodium hydroxide | 1 N, 2.66 mL | [OH-].[Na+]
reactant | water | 7.98 mL | O | H2O
solvent | THF | 2.00 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-(tetrahydropyran-2-yloxy)benzylamine | O1C(CCCC1)OC1=CC=C(CN)C=C1 | C12H17NO2
